US04631147
Synthesis of 1-n-butyl-2,2,7,7-tetramethylcycloheptan-1-ol
A n-butyl lithium/n-hexane solution having a concentration of 1.6 moles/liter (70 ml, 0.11 moles of n-BuLi) was added, in 30 minutes, to a mixed solution of 2,2,7,7-tetramethylcycloheptanone (16.80 g, 0.10 mole)/dried diethyl ether (100 ml) while stirring at -5° C. The mixture was stirred at -5° C. for 1 hour. Subsequently, the reaction mixture was treated in the same manner as in Example 1 to obtain 16.00 g (yield 70.7%) of the captioned compound. This compound was a colorless transparent liquid having a woody, earthy and green odor.

reactant | n-butyl lithium n-hexane | C(CCC)[Li].CCCCCC
reactant | n-BuLi | 0.11 moles, 70 ml | [Li]CCCC
reactant | 2,2,7,7-tetramethylcycloheptanone | CC1(C(C(CCCC1)(C)C)=O)C | C11H20O
reactant | diethyl ether | 0.10 mole, 100 ml, 16.80 g | C(C)OCC | C4H10O
product | 1-n-butyl-2,2,7,7-tetramethylcycloheptan-1-ol | 16.00 g, yield 70.7% | C(CCC)C1(C(CCCCC1(C)C)(C)C)O | C15H30O
